US07348017B2
2-(3-Hydroxy-5-methoxy-2-propylphenyl)acetic acid is refluxed in methanol in the presence of sulfuric acid, to give methyl 2-(3-hydroxy-5-methoxy-2-propylphenyl)acetate.

reactant | 2-(3-Hydroxy-5-methoxy-2-propylphenyl)acetic acid | OC=1C(=C(C=C(C1)OC)CC(=O)O)CCC | C12H16O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | methyl 2-(3-hydroxy-5-methoxy-2-propylphenyl)acetate | OC=1C(=C(C=C(C1)OC)CC(=O)OC)CCC | C13H18O4
